US07956066B2
To a refluxing solution of 1 M LiAlH4 (40 mmol) in THF (30 mL) was added dropwise a solution of N—BOC-4-piperidinepropionic acid (3.0 g, 11.6 mmol). The reaction mixture was heated for 3 h then cooled to rt. Upon further cooling to 0° C., water (1.5 mL) was added slowly, and the reaction mixture was allowed to warm to rt over 15 min. The mixture was again cooled to 0° C., and 10% aq. NaOH (1.5 mL) was added slowly. Upon warming to rt over 15 min, the mixture was cooled to 0° C. and more water (4.5 mL) was added. The resultant mixture was allowed to warm to rt over 18 h, and was then filtered through a pad of diatomaceous earth. The filtrate was concentrated, and the residue was purified by Method 1 to afford 1.9 g (100%) of 3-(1-methyl-piperidin-4-yl)-propan-1-ol as a yellow oil. MS (ESI): mass calcd for C9H19NO, 157.15; m/z found 158.1 [M+H]+. 1H NMR (400 MHz, CD3OD): 3.45-3.41 (m, 2H), 2.77-2.74 (m, 2H), 1.89-1.85 (m, 2H), 1.64-1.61 (m, 2H), 1.47-1.43 (m, 2H), 1.21-1.12 (m, 5H).

reactant | LiAlH4 | 40 mmol, 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N—BOC-4-piperidinepropionic acid | 11.6 mmol, 3.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CCC(=O)O | C13H23NO4
reactant | water | 1.5 mL | O | H2O
reactant | NaOH | 1.5 mL | [OH-].[Na+]
reactant | water | 4.5 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(1-methyl-piperidin-4-yl)-propan-1-ol | 1.9 g, 100% | CN1CCC(CC1)CCCO | C9H19NO
